US04492792
In the same reaction apparatus as in Example 9, there was placed 11.6 g (60 mmoles) of a 28 wt. % solution of sodium methylate in methanol. Thereto was added with stirring 5.67 g (60 mmoles) of acetamidine hydrochloride, and the mixture was stirred at room temperature for one hour. Subsequently, 9.45 g (50 mmoles) of 2-dimethoxymethyl-3,3-dimethoxypropanenitrile was added thereto and the mixture was heated and refluxed for 5 hours. After completion of the reaction, the reaction mixture was cooled and the insoluble sodium chloride was removed by filtration. The filtrate was analyzed by gas chromatography according to the internal standard method. As the result, it was confirmed that 8.51 g (yield: 93%) of 2-methyl-4-amino-5-dimethoxymethylpyrimidine had been formed.

reactant | sodium methylate | C[O-].[Na+]
reactant | acetamidine hydrochloride | 60 mmoles, 5.67 g | Cl.C(C)(=N)N
reactant | 2-dimethoxymethyl-3,3-dimethoxypropanenitrile | 50 mmoles, 9.45 g | COC(C(C#N)C(OC)OC)OC | C8H15NO4
solvent | methanol | CO | CH4O
product | 2-methyl-4-amino-5-dimethoxymethylpyrimidine | 8.51 g, yield: 93% | CC1=NC=C(C(=N1)N)C(OC)OC | C8H13N3O2
